US05366969
3,4-Dihydro-2H-pyrido-(1,2-a)-pyrimidine-2,2-diphosphonic acid
5 g 3,4-Dihydropyrido-(1,2-a)-pyrimidin-2-one (Fluka) were melted at 80° C. with 5.5 g H3PO4 and mixed, while stirring, with 5.9 ml PCl3. After 20 hours at the given temperature, it was mixed with 70 ml 2N HCl, stirred for 8 hours at 100° C. and, after cooling, filtered off from the undissolved part. The filtrate was evaporated on a rotary evaporator and purified by ion exchanger chromatography on Amberlite IR 120 (H+ form) with water as eluent. The fractions obtained after electrophoresis were evaporated in a vacuum and the oil remaining behind, after dissolving in a little water, brought to crystallisation by the addition of acetone.

reactant | 3,4-Dihydropyrido-(1,2-a)-pyrimidin-2-one | 5 g | N1=C2N(CCC1=O)C=CC=C2 | C8H8N2O
reactant | H3PO4 | 5.5 g | OP(=O)(O)O | H3O4P
reactant | PCl3 | 5.9 ml | P(Cl)(Cl)Cl | Cl3P
solvent | HCl | 2N, 70 ml | Cl | ClH
product | 3,4-Dihydro-2H-pyrido-(1,2-a)-pyrimidine-2,2-diphosphonic acid | N1=C2N(CCC1(P(O)(=O)O)P(O)(=O)O)C=CC=C2 | C8H12N2O6P2
